US07396847B2
(5R)-3-{4′-[5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one
5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-[4-(trimethylstannyl)phenyl]4,5-dihydroisoxazole (0.70 g, 1.6 mmol), (5R)-3-(4-iodophenyl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one (0.5 g, 1.29 mmol), tri-2-furyl phosphine (0.06 g, 0.26 mmol) and tris(dibenzylideneacetone)palladium (0) (0.12 g, 0.13 mmol) were dissolved in 1,4-dioxane (5 ml) and degassed three times. The mixture was then heated to 90° C. and stirred for 18 hr. LCMS indicated that the reaction was not yet complete, so it was cooled and an additional (0.12 g, 0.13 mmol) of tris(dibenzylidene acetone) palladium (0) was added, the mixture degassed and reheated to 110° C. for 3 hours, and 25° C. for 40 hours. The solution was concentrated in vacuo and purified by silica flash chromatography with 5-10% methanol in dichloromethane as eluent giving 0.2 g of the desired product as a yellow solid.

reactant | 5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-[4-(trimethylstannyl)phenyl]4,5-dihydroisoxazole | 1.6 mmol, 0.70 g | [Si](C)(C)(C(C)(C)C)OCC1CC(=NO1)C1=CC=C(C=C1)[Sn](C)(C)C
reactant | (5R)-3-(4-iodophenyl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one | 1.29 mmol, 0.5 g | IC1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O | C13H13IN4O2
reactant | tri-2-furyl phosphine | 0.26 mmol, 0.06 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylidene acetone) palladium (0) | 0.13 mmol, 0.12 g | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | (5R)-3-{4′-[5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one | 0.2 g | [Si](C)(C)(C(C)(C)C)OCC1CC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O | C29H37N5O4Si
